US06713474B2
In a similar manner to Example 2, 3-tosyloxytetrahydrofuran (1.84 g) was reacted with 5-(4-benzyloxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (2.9 g) using sodium hydride (0.30 g, of a 60% dispersion in mineral oil) and dimethylformamide (40 ml) except that the mixture was heated for 4.5 hours at 90° C. to give 5-(4-benzyloxyphenyl)-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine as a solid.

reactant | 3-tosyloxytetrahydrofuran | 1.84 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1COCC1 | C11H14O4S
reactant | 5-(4-benzyloxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 2.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C19H16N4O
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 5-(4-benzyloxyphenyl)-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2COCC2 | C23H22N4O2
